US06180622B2
b) (1R,5S,6S)-2-[(3S,5S)-5-[6-(2-Cyclopropylmethyl)-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (internal salt)
Anhydrous THF (0.7 ml) and 0.7 ml of dry ethanol are added to 47.9 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(2-cyclopropylmethyl)-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate. Triphenylphosphine (7.8 mg), 0.016 ml of morpholine, and 4.3 mg of tetrakis(triphenylphosphine)palladium(0) are successively added thereto, and the mixture is stirred in an argon atmosphere at room temperature for one hr. THF (10 ml) is added thereto, and the resultant precipitate is further washed twice with 3 ml of THF and dried in vacuo to give a yellow powder which is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 2.0 mg of the title compound as a slightly yellow powder.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(2-cyclopropylmethyl)-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate | 47.9 mg | FC(S(=O)(=O)[O-])(F)F.C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2C)CC2CC2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C
reactant | Triphenylphosphine | 7.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | morpholine | 0.016 ml | N1CCOCC1 | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
solvent | THF | 0.7 ml | C1CCOC1 | C4H8O
product | (1R,5S,6S)-2-[(3S,5S)-5-[6-(2-Cyclopropylmethyl)-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 2.0 mg | C1C(C1)CN1C(=[N+]2C(SC(=C2)C[C@@H]2C[C@@H](CN2)SC=2[C@@H]([C@H]3N(C2C(=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)=C1)C | C25H32N4O4S2
